US06890947B2
Rac-2-Ethoxy-3-[1-(5-methyl-2-phenyl-thiazol-4-ylmethyl)-1H-indol-5-yl]-propionic Acid
Starting from rac-2-ethoxy-3-(1H-indol-5-yl)-propionic acid ethyl ester and 4-bromomethyl-5-methyl-2-phenyl-thiazole, the title compound was obtained in 1% yield as a yellow oil. MS: (M+H)+ 421.2.

reactant | rac-2-ethoxy-3-(1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C=CNC2=CC1)OCC)=O | C15H19NO3
reactant | 4-bromomethyl-5-methyl-2-phenyl-thiazole | BrCC=1N=C(SC1C)C1=CC=CC=C1 | C11H10BrNS
product | Rac-2-Ethoxy-3-[1-(5-methyl-2-phenyl-thiazol-4-ylmethyl)-1H-indol-5-yl]-propionic Acid | 1% yield | C(C)OC(C(=O)O)CC=1C=C2C=CN(C2=CC1)CC=1N=C(SC1C)C1=CC=CC=C1 | C24H24N2O3S
